US07476663B2
(b) 3-methyl-4-(5-oxo-[1,4]oxazepan-4-yl)-aniline
Prepared analogously to Example 1c from 3-methyl-4-(5-oxo-[1,4]oxazepan-4-yl)-1-nitro-benzene with Raney nickel under a hydrogen atmosphere in methanol.

reactant | 3-methyl-4-(5-oxo-[1,4]oxazepan-4-yl)-1-nitro-benzene | CC=1C=C(C=CC1N1CCOCCC1=O)[N+](=O)[O-] | C12H14N2O4
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 3-methyl-4-(5-oxo-[1,4]oxazepan-4-yl)-aniline | CC=1C=C(N)C=CC1N1CCOCCC1=O | C12H16N2O2
